US08133909B2
(S)-2-(4-Fluoro-phenyl)-2-hydroxy-N-(3-methoxy-4-methyl-phenyl)-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide
In analogy to example 47 (steps 3 & 4), 3-Methoxy-4-methyl-phenylamine, (6-Trifluoromethyl-pyridin-3-yl)-acetonitrile & (4-Fluoro-phenyl)-oxo-acetic acid were successively coupled then reduced to give after chiral chromatography (+ve rotation) the target compound. MS(m/e): 463.1 [M+H]+.

reactant | 3-Methoxy-4-methyl-phenylamine | COC=1C=C(C=CC1C)N | C8H11NO
reactant | (6-Trifluoromethyl-pyridin-3-yl)-acetonitrile | FC(C1=CC=C(C=N1)CC#N)(F)F | C8H5F3N2
reactant | (4-Fluoro-phenyl)-oxo-acetic acid | FC1=CC=C(C=C1)C(C(=O)O)=O | C8H5FO3
product | (S)-2-(4-Fluoro-phenyl)-2-hydroxy-N-(3-methoxy-4-methyl-phenyl)-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | FC1=CC=C(C=C1)[C@@H](C(=O)N(CCC=1C=NC(=CC1)C(F)(F)F)C1=CC(=C(C=C1)C)OC)O | C24H22F4N2O3
